US06384072B1
To a solution of a mixture of [(5SR,6SR)-1-(tert-butyldiphenylsilyloxy)-5,6-dihydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]methyl N,N-diphenylcarbamate and [(6RS,7RS)-1-(tert-butyldiphenylsilyloxy)-6,7-dihydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]methyl N,N-diphenylcarbamate (1.04 g) in THF (10 ml) was added tetrabutylammonium fluoride (1M THF solution, 2.38 ml) at 5° C. The mixture was stirred at room temperature for 1 hour. After addition of 1N-hydrochloric acid (3 ml) under ice-cooling, the mixture was extracted with EtOAc. The organic layer was washed with water, saturated sodium hydrogencarbonate solution, water, and then brine. It was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-EtOAc 4:5) to give first [(5SR,6SR)-1,5,6-trihydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]methyl N,N-diphenylcarbamate (468.4 mg) as an amorphous solid and then [(6RS,7RS)-1,6,7-trihydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]methyl N,N-diphenylcarbamate (195.9 mg) as an amorphous solid.

reactant | [(5SR,6SR)-1-(tert-butyldiphenylsilyloxy)-5,6-dihydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]methyl N,N-diphenylcarbamate | C1(=CC=CC=C1)N(C(OCC1(C(C2=C(CCC1)C(=CC=C2)O[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)O)O)=O)C2=CC=CC=C2 | C41H43NO5Si
reactant | [(6RS,7RS)-1-(tert-butyldiphenylsilyloxy)-6,7-dihydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]methyl N,N-diphenylcarbamate | 1.04 g | C1(=CC=CC=C1)N(C(OCC1(CC2=C(CCC1O)C(=CC=C2)O[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)O)=O)C2=CC=CC=C2 | C41H43NO5Si
reactant | tetrabutylammonium fluoride | 1M, 2.38 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | [(5SR,6SR)-1,5,6-trihydroxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl]methyl N,N-diphenylcarbamate | 468.4 mg | C1(=CC=CC=C1)N(C(OCC1(C(C2=C(CCC1)C(=CC=C2)O)O)O)=O)C2=CC=CC=C2 | C25H25NO5
